US08349880B2
A 25 mL round bottom flask was charged with copper (I) iodide (53.1 mg, 0.279 mmol) in THF (5 mL), and cooled to 0° C. A solution of methyl magnesium bromide (9.96 mL, 14.0 mmol) was added. The resulting mixture was stirred for 20 min. To the solution of methyl cuprate was added 2-(4-(4-chloro-1H-imidazol-1-yl)-3-methoxyphenylamino)-9-(4-(trifluoromethoxy)phenyl)-8,9-dihydro-5H-[1,2,4]triazolo[1,5-a]azepin-7(6H)-one (743 mg, 1.39 mmol) in THE (1 mL). The mixture was stirred at 0° C. for 2 h. The reaction mixture was quenched with saturated ammonium chloride and diluted with EtOAc. The organic layer was collected and washed sequentially with H2O (100 mL), aq sat. NaHCO3 solution (100 mL), and brine (100 mL). The organic layer was dried over sodium sulfate and concentrated in vacuo. The crude product was purified using reverse phase preparatory HPLC (MeOH/water/trifluoroacetic acid) to afford rel-(7R,9R)-2-(4-(4-chloro-1H-imidazol-1-yl)-3-methoxyphenylamino)-7-methyl-9-(4-(trifluoromethoxy)phenyl)-6,7,8,9-tetrahydro-5H-[1,2,4]triazolo[1,5-a]azepin-7-ol (43 mg, 4% yield, Example 152, first isomer to elute) and rel-(7S,9R)-2-(4-(4-chloro-1H-imidazol-1-yl)-3-methoxyphenylamino)-7-methyl-9-(4-(trifluoromethoxy)phenyl)-6,7,8,9-tetrahydro-5H-[1,2,4]triazolo[1,5-a]azepin-7-ol (39.6 mg, 4% yield, Example 153, second isomer to elute). Data for Example 152: LC-MS (M+H)+ 549.3. 1H NMR (500 MHz, CHLOROFORM-d) δ ppm 10.09 (1 H, br. s.), 8.02 (1 H, d, J=1.5 Hz), 7.26-7.38 (5 H, m), 7.08-7.20 (3 H, m), 4.63-4.75 (2 H, m), 4.40 (1 H, ddd, J=14.9, 5.1, 2.3 Hz), 3.86 (3 H, s), 2.23-2.31 (1 H, m), 2.14-2.21 (1 H, m), 2.05-2.12 (1 H, m), 1.94-2.03 (1 H, m), 1.48 (3 H, s). Data for Example 153: LC-MS (M+H)+ 549.3. 1H NMR (500 MHz, CHLOROFORM-d) δ ppm 7.76 (1 H, s), 7.32 (1 H, d, J=2.4 Hz), 7.22-7.30 (5 H, m), 7.15 (1 H, d, J=8.5 Hz), 7.02-7.09 (2 H, m), 4.60 (1 H, ddd, J=14.7, 8.3, 2.6 Hz), 4.30 (1 H, ddd, J=14.9, 7.4, 2.4 Hz), 4.21 (1 H, dd, J=10.1, 1.8 Hz), 3.83-3.87 (3 H, m), 2.54 (1 H, dd, J=14.3, 10.4 Hz), 2.11-2.22 (3 H, m), 1.52 (3 H, s).

reactant | methyl magnesium bromide | 14.0 mmol, 9.96 mL | C[Mg]Br
reactant | 2-(4-(4-chloro-1H-imidazol-1-yl)-3-methoxyphenylamino)-9-(4-(trifluoromethoxy)phenyl)-8,9-dihydro-5H-[1,2,4]triazolo[1,5-a]azepin-7(6H)-one | 1.39 mmol, 743 mg | ClC=1N=CN(C1)C1=C(C=C(C=C1)NC1=NN2C(C(CC(CC2)=O)C2=CC=C(C=C2)OC(F)(F)F)=N1)OC | C24H20ClF3N6O3
solvent | THF | 5 mL | C1CCOC1 | C4H8O
catalyst | copper (I) iodide | 0.279 mmol, 53.1 mg | [Cu]I
product | rel-(7R,9R)-2-(4-(4-chloro-1H-imidazol-1-yl)-3-methoxyphenylamino)-7-methyl-9-(4-(trifluoromethoxy)phenyl)-6,7,8,9-tetrahydro-5H-[1,2,4]triazolo[1,5-a]azepin-7-ol | 4% yield | ClC=1N=CN(C1)C1=C(C=C(C=C1)NC1=NN2C([C@H](C[C@](CC2)(O)C)C2=CC=C(C=C2)OC(F)(F)F)=N1)OC | C25H24ClF3N6O3
